US03987052
In the manner given in Example 2, 7-chloro-1,3-dihydro-5-phenyl-2H-1,4-benzodiazepine-2-thione was heated in ethanol with propionic acid hydrazide and the resulting product heated to 250° C. to give 8-chloro-1-ethyl-6-phenyl-4H-s-triazolo-[4,3-a][1,4]benzodiazepine of melting point 231.5°-232.5° C. The ultraviolet spectrum (ethanol) had end absorption λ max. 224 (ε = 39,250) and inflections 248 (ε = 15,000), 266 (ε = 6,900) and 290 mμ(ε = 3,250).

reactant | 7-chloro-1,3-dihydro-5-phenyl-2H-1,4-benzodiazepine-2-thione | ClC=1C=CC2=C(C(=NCC(N2)=S)C2=CC=CC=C2)C1 | C15H11ClN2S
reactant | propionic acid hydrazide | C(CC)(=O)NN | C3H8N2O
solvent | ethanol | C(C)O | C2H6O
product | 8-chloro-1-ethyl-6-phenyl-4H-s-triazolo-[4,3-a][1,4]benzodiazepine | ClC=1C=CC2=C(C(=NCC=3N2C(=NN3)CC)C3=CC=CC=C3)C1 | C18H15ClN4
